US07378409B2
Synthesis of N-(2-((1S,2R,4R)-2-(hydroxymethyl)-4-(isopropyl(methyl)amino)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide
A solution of (3-Trifluoromethyl-benzoylamino)-acetic acid (1.76 g, 0.0071 mol) in THF was cooled in an ice bath and treated with N-methylmorpholine(0.80 g, 0.0080 mol) and then drop-wise with isobutyl chloroformate (1.0 g, 0.007 mol). The resulting mixture was stirred for 5 min and then treated with a solution of ((1R,2S,5R)-2-amino-5-(isopropyl(methyl)amino)cyclohexyl)methanol (1.3 g, 0.0065 mol) in THF. The resulting mixture was stirred for 30 minutes and then diluted with water and extracted into CH2Cl2. The extract was washed with dilute NaOH, water, and brine and then concentrated under vacuum. The residue was chromatographed on silica gel (elution 5-8% [NH4OH/MeOH]/CH2Cl2) to give 1.2 g of the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ(TMS): 8.15 (s, 1 H), 8.05 (d, J=7.8 Hz, 1 H), 7.76 (d, J=7.8 Hz, 1 H), 7.76 (bs, 1 H), 7.57 (t, J=7.8 Hz, 1 H), 7.17 (bs, 1 H), 4.26 (m, 1 H), 4.26 (dd, J=5 Hz, J=16 Hz, 1 H), 4.13 (dd, J=5 Hz, J=16 Hz, 1 H), 3.27 (m, 1 H), 3.17 (m, 1 H), 2.57 (m, 2 H), 2.24 (s, 3 H), 1.92-1.60 (m, 7 H), 1.05 (d, J=6.5 Hz, 6 H); MS found: (M+H)+=430.48.

reactant | (3-Trifluoromethyl-benzoylamino)-acetic acid | 0.0071 mol, 1.76 g | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | N-methylmorpholine | 0.0080 mol, 0.80 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.007 mol, 1.0 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ((1R,2S,5R)-2-amino-5-(isopropyl(methyl)amino)cyclohexyl)methanol | 0.0065 mol, 1.3 g | N[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)CO | C11H24N2O
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(2-((1S,2R,4R)-2-(hydroxymethyl)-4-(isopropyl(methyl)amino)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide | 1.2 g | OC[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H30F3N3O3
